US07399759B2
tert-Butyl 3-[6-(7-chloro-4-oxo-4H-1,3-benzothiazin-2-yl)-4-methyl-2-pyridyl]propanoate
tert-Butyl 3-(6-cyano-4-methyl-2-pyridyl)propanoate (0.69 g, 2.8 mmol) and 4-chlorothiosalicylic acid (1.05 g, 5.7 mmol) were dissolved in pyridine (10 ml). The mixture was refluxed for 22 hrs. The solvent was evaporated, and the residue was subjected to a silica gel column chromatography. The fractions eluted with hexane-ethyl acetate (3:1, v/v) were collected, concentrated and recrystallized from hexane-ethyl acetate to give the titled compound (0.33 g, 28%) as white crystals.

reactant | tert-Butyl 3-(6-cyano-4-methyl-2-pyridyl)propanoate | 2.8 mmol, 0.69 g | C(#N)C1=CC(=CC(=N1)CCC(=O)OC(C)(C)C)C | C14H18N2O2
reactant | 4-chlorothiosalicylic acid | 5.7 mmol, 1.05 g | ClC=1C=C(C(C(=O)O)=CC1)S | C7H5ClO2S
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | tert-Butyl 3-[6-(7-chloro-4-oxo-4H-1,3-benzothiazin-2-yl)-4-methyl-2-pyridyl]propanoate | 0.33 g, 28% | ClC1=CC2=C(C(N=C(S2)C2=CC(=CC(=N2)CCC(=O)OC(C)(C)C)C)=O)C=C1 | C21H21ClN2O3S
